US05444082
A solution of 0.200 g of 9-hydroxy-3-(2-(3-furyl)ethyl)-spiro[5.5]-undecane (I-ap, Ex. 38) and 0.11 ml of thiolacetic acid in 9 ml of anhydrous tetrahydrofuran was added to a solution of 0.40 g of triphenylphosphine and 0.30 ml of diisopropyl azodicarboxylate in 1 ml of anhydrous tetrahydrofuran, and the mixture stirred at 0° C. under argon atmosphere for 2 hrs. Silica gel was then added, the mixture was evaporated to dryness and the residue purified by chromatography (SiO2 ; n-hexane/diethylether 90/10) to give 0.120 g of 9-acetylthio-3-(2(3-furyl)ethyl)-spiro[5.5]undecane as a light oil. TLC: Rf=0.72 (SiO2 plates, n-hexane/diethylether 90/10). 1H-NMR (300 MHz, CDCl3, ppm from TMS): 7.40 (1H, m), 7.21 (1H, m), 6.25 (1H, m), 3.48 (1H, m), 2.48 (2H, t), 2.30 (3H, s), 1.90-0.85 (19H, m).

reactant | 9-hydroxy-3-(2-(3-furyl)ethyl)-spiro[5.5]-undecane | 0.200 g | OC1CCC2(CCC(CC2)CCC2=COC=C2)CC1 | C17H26O2
reactant | thiolacetic acid | 0.11 ml | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | triphenylphosphine | 0.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.30 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 9-acetylthio-3-(2(3-furyl)ethyl)-spiro[5.5]undecane | 0.120 g | C(C)(=O)SC1CCC2(CCC(CC2)CCC2=COC=C2)CC1 | C19H28O2S
